US08119692B2
4-(4-Chloro-phenyl)-4-methoxy-butyric acid (Intermediate F11)
A solution of 4-(4-chloro-phenyl)-4-methoxy-butan-1-ol (120.0 mg, 0.56 mmol) in 6 mL acetone was added dropwise at room temperature 0.6 mL of Jones reagent. After stirring an additional 30 min water was added and the mixture extracted with DCM (3×20 mL). The combined DCM layers were washed with water (2×10 mL) and dried over Na2SO4. The solvent was evaporated under reduce pressure and the crude product was used for the next step without further purification.

reactant | 4-(4-chloro-phenyl)-4-methoxy-butan-1-ol | 0.56 mmol, 120.0 mg | ClC1=CC=C(C=C1)C(CCCO)OC | C11H15ClO2
reactant | Jones reagent | 0.6 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | O | H2O
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | 4-(4-Chloro-phenyl)-4-methoxy-butyric acid | ClC1=CC=C(C=C1)C(CCC(=O)O)OC | C11H13ClO3
